* Generated by electronics_design from a KiCad schematic
.include "sn74lvc1g14.ibs"
XU2 0 in2 LVC1G14_YEP
C1 N001 0 10p
R2 N001 in2 10
XU1 0 out1 LVC1G14_YEP ton=5e-9 toff=5e-9 td=1e-9 n=3
R1 out1 N001 10
.tran 1
.backanno
.end
